US04559354
With the addition of 3.0 g of palladium-on-carbon catalyst (10%), a solution of 16 g of crude 1-[N-benzyl-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]]-3-[4-(4-methyl-5-trifluoromethyl-4H-1,2,4-triazol-3-yl)-phenoxy]-2-propanol in 160 ml of methanol is catalytically hydrogenated under normal conditions until, after 35 hours, the calculated quantity of hydrogen has been absorbed (an additional quantity of 2 g of catalyst is required for this purpose). Filtration and concentration by evaporation of the filtrate produce a semi-solid mass which, by recrystallisation from isopropanol using active carbon, yields 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(4-methyl-5-trifluoromethyl-4H-1,2,4-triazol-3-yl)-phenoxy]-2-propanol having a melting point of 151°-153°.

reactant | 1-[N-benzyl-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]]-3-[4-(4-methyl-5-trifluoromethyl-4H-1,2,4-triazol-3-yl)-phenoxy]-2-propanol | 16 g | C(C1=CC=CC=C1)N(CC(COC1=CC=C(C=C1)C1=NN=C(N1C)C(F)(F)F)O)CCOC1=CC(=C(C=C1)O)C(N)=O | C29H30F3N5O5
catalyst | palladium-on-carbon | 3.0 g | [Pd] | Pd
solvent | methanol | 160 ml | CO | CH4O
product | 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(4-methyl-5-trifluoromethyl-4H-1,2,4-triazol-3-yl)-phenoxy]-2-propanol | C(N)(=O)C=1C=C(OCCNCC(COC2=CC=C(C=C2)C2=NN=C(N2C)C(F)(F)F)O)C=CC1O | C22H24F3N5O5
